US07737149B2
Ethyl 4-fluorobenzoate (0.151 mL, 1 mmol), 2,2-dimethylpiperazine (0.137 g, 1.20 mmol) and N-ethyl-N-propan-2-ylpropan-2-amine (0.349 mL, 2.00 mmol) were dissolved in DMA (2 mL) and sealed into a microwave tube. The reaction was heated to 200° C. for 4 h in the microwave reactor and cooled to room temperature. The crude mixture was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 3.5M ammonia in methanol, fractions were evaporated to dryness to afford an oil. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 10% 2M ammonia/MeOH in DCM. Pure fractions were evaporated to dryness to afford ethyl 4-(3,3-dimethylpiperazin-1-yl)benzoate (0.145 g, 55.3%) as a white solid. 1H NMR (399.9 MHz, CDCl3) δ 1.15 (6H, d), 1.37 (3H, t), 2.38 (1H, d), 2.41 (1H, d), 2.96-3.04 (2H, m), 3.65-3.69 (2H, m), 4.33 (2H, q), 6.84-6.87 (2H, m), 7.89-7.93 (2H, m). MS: m/z 266 (MH+).

reactant | Ethyl 4-fluorobenzoate | 1 mmol, 0.151 mL | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | 2,2-dimethylpiperazine | 1.20 mmol, 0.137 g | CC1(NCCNC1)C | C6H14N2
reactant | N-ethyl-N-propan-2-ylpropan-2-amine | 2.00 mmol, 0.349 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | ethyl 4-(3,3-dimethylpiperazin-1-yl)benzoate | 0.145 g, 55.3% | CC1(CN(CCN1)C1=CC=C(C(=O)OCC)C=C1)C | C15H22N2O2
